US04289883
1.0 g of 8-(2-propynyloxy)-5-(3-chloro-2-hydroxypropoxy)-3,4-dihydrocarbostyril was dissolved in 30 ml of methanol. 0.5 g of anhydrous potassium carbonate and 1.4 g of 2-(3,5-dimethoxyphenoxy)ethylamine were added to the solution, and the resulting mixture was refluxed while stirring for 8 hours. The methanol was evaporated under reduced pressure, and the residue was rendered acidic with hydrochloric acid followed by washing with ethyl acetate. The hydrochloric acid layer was separated, extracted with chloroform, washed with water and dried over anhydrous sodium sulfate. The chloroform was evaporated under reduced pressure, and the residue was recrystallized from methanol-diethyl ether to obtain 0.4 g of 8-(2-propynyloxy)-5{3-[2-(3,5-dimethoxyphenoxy)ethylamino]-2-hydroxypropoxy}-3,4-dihydrocarbostyril hydrochloride having a melting point of 187°-189° C.

reactant | 8-(2-propynyloxy)-5-(3-chloro-2-hydroxypropoxy)-3,4-dihydrocarbostyril | 1.0 g | C(C#C)OC=1C=CC(=C2CCC(NC12)=O)OCC(CCl)O | C15H16ClNO4
reactant | potassium carbonate | 0.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-(3,5-dimethoxyphenoxy)ethylamine | 1.4 g | COC=1C=C(OCCN)C=C(C1)OC | C10H15NO3
solvent | methanol | 30 ml | CO | CH4O
product | 8-(2-propynyloxy)-5{3-[2-(3,5-dimethoxyphenoxy)ethylamino]-2-hydroxypropoxy}-3,4-dihydrocarbostyril hydrochloride | 0.4 g | Cl.C(C#C)OC=1C=CC(=C2CCC(NC12)=O)OCC(CNCCOC1=CC(=CC(=C1)OC)OC)O | InChI=1S/C25H30N2O7.ClH/c1-4-10-33-23-7-6-22(21-5-8-24(29)27-25(21)23)34-16-17(28)15-26-9-11-32-20-13-18(30-2)12-19(14-20)31-3;/h1,6-7,12-14,17,26,28H,5,8-11,15-16H2,2-3H3,(H,27,29);1H
